US05055569
N-[2-(2-methyl-1H-imidazol-1-yl) ethyl]adenosine, hydrochloride
A suspension was prepared containing 1.64 g (5.74 mmol) of 6-chloropurine riboside in 12 ml of absolute ethanol. To the solution was added 0.72 g (5.7 mmol) of 2-(2-methyl-imidazol-1-yl) ethylamine (prepared in accordance with Z.Obsch. Chim. 11, 545 (1941); Chem Ab. 1941 6938) and 0.81 g (8.0 mmol) of triethylamine. The reaction mixture was heated under reflux for 77 hours. The solvent was removed in vacuo and chromatography of the residue on silica gel was performed by eluting with a mixture of 22 parts methanol, 88 parts methylene chloride, and one part ammonium hydroxide. The title compound was obtained as the free base yielding 1.2 g (55% yield). This material was converted to the hydrochloride salt by suspending in 20 ml of water at 0° and adding 1 normal hydrochloric acid until a pH of 2.6 was attained. The solution was frozen and lyophilized giving a white powder which was passed through a column of cellulose powder eluting with a mixture of 85 parts n-butanol and 15 parts water. The appropriate fractions were combined and concentrated to give a glass which was azeotroped twice with water and then dissolved in water, frozen and lyophilized giving 1.1 g (44% yield) of the title compound as a white powder.

reactant | 6-chloropurine riboside | 5.74 mmol, 1.64 g | C1=NC2=C(C(=N1)Cl)N=CN2[C@H]3[C@@H]([C@@H]([C@H](O3)CO)O)O | C10H11ClN4O4
reactant | 2-(2-methyl-imidazol-1-yl) ethylamine | 5.7 mmol, 0.72 g | CC=1N(C=CN1)CCN | C6H11N3
reactant | triethylamine | 8.0 mmol, 0.81 g | C(C)N(CC)CC | C6H15N
solvent | ethanol | 12 ml | C(C)O | C2H6O
product | N-[2-(2-methyl-1H-imidazol-1-yl) ethyl]adenosine, hydrochloride | 55% yield | Cl.CC=1N(C=CN1)CCNC=1C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N=CN1 | InChI=1S/C16H21N7O4.ClH/c1-9-17-2-4-22(9)5-3-18-14-11-15(20-7-19-14)23(8-21-11)16-13(26)12(25)10(6-24)27-16;/h2,4,7-8,10,12-13,16,24-26H,3,5-6H2,1H3,(H,18,19,20);1H/t10-,12-,13-,16-;/m1./s1
